US07407968B2
4-[(Cyclopropylmethyl)amino]-3-nitro-N,N-bis(2,2,2-trifluoroethyl)-benzamide
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (100 mg, 0.287 mmol) and cyclopropylmethyl amine (0.030 mL, 0.344 mmol) in 3 mL of EtOH containing Et3N (0.080 mL, 0.574 mmol). The product was purified by flash chromatography on silica gel using 4:1/hexanes:EtOAc as eluent. Yield: 91 mg (80%); 1H NMR (CDCl3) 0.35 (m, 2H), 0.70 (m, 2H), 1.21 (m, 1H), 3.21 (m, 2H), 4.25 (q, J=8.59 Hz, 4H), 6.91 (d, J=8.98 Hz, 1H), 7.54 (d, J=8.79 Hz, 1H), 8.30 (s, 1H), 8.35 (s, 1H); MS (ESI) 400.19 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.287 mmol, 100 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | cyclopropylmethyl amine | 0.344 mmol, 0.030 mL | C1(CC1)CN | C4H9N
reactant | Et3N | 0.574 mmol, 0.080 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 4-[(Cyclopropylmethyl)amino]-3-nitro-N,N-bis(2,2,2-trifluoroethyl)-benzamide | C1(CC1)CNC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C15H15F6N3O3
